data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3544,"CC1=CC=C(C2([OH:1])CC=C(C3=CC=CC=C3)O2)C=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4417,"CCOCC.N=C(CC1=CC=C(O)C=C1)[C:1]1([H:2])C(O)=CC(O)=C[C:3]1=[OH+:4].O=S(=O)([O-])O.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5529,"CCN(CC)[C:1](=[CH:2]CCC(C)=O)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9631,"CC[C:1](=[CH:2]CC1(C)C(=O)CCCC1=O)[O-:3].CC[N+:4](CC)(CC)[H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3434,"CC=CC[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6298,"C[C+:1]1C=CC2=C(C=CC=C2)[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4778,"CCC([O-])[OH+:1][Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4319,"O=S(=O)(O)C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,4062,"CCO.O.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CCC2(CC1CC1=CC=CC=C1)OCC[O:1]2.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6264,"COC(OC)(C1(C2=CC=CC=C2)CC[NH+](C)CC1)[NH2:1].O=S(=O)([O-])[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2489,"CCCCC1OC2CC3OC(CO[Si](C)(C)C(C)(C)C)C(=[O:1])CCC3OC2(C)CC1CCC.C[Si](C)(C)[N]([Si](C)(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,7182,"CO[PH](I)(OC)[O+:1](C)[H:2].C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5298,"CO[CH:1]([OH+:2]C1=CC=C2C(=C1)C1=C(C=CC=C1)N2C)[OH:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8875,"CC1=C(N(C)S(C)(=O)=O)C(C)=C(N(C)S(C)(=O)=O)[N+]([Si:1](C)(C)C)=C1C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1929,"CC1(C)C2CCC1(C)[C:1]1(C3=CC=CC=C3)C2[OH+:2]1.O|((1, 2), 2)"
train,pmechdb_split_0,0,2467,"CC(C1=CC=CC=C1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,682,"C1CC[CH:1]2C(C1)[I+:2]2.[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,834,"C[NH+:1]=[C:2](O)O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4879,"CCCC[P:1](CCCC)CCCC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7139,"CC(C)[C+:1]1CCCC1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,9865,"CC(=O)O[C:1](CCC=O)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,590,"CCC(C)[OH:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10025,"CCC[CH:1]=[C:2](C1=C([O:3][H:4])C=CC(Br)=C1)[OH:5].O.O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3303,"C[C:1](=[CH:2][CH:3](C1=CC=CC=C1)[OH:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7940,"CC(=O)O[C:1](C)=[O:2].CC1=CC=C(S(=O)(=O)OC(C)CC[OH:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6193,"C=CCC[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5061,"BrC(Br)Br.OCCOC1=CC=C(OC[CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,5602,"CC(C)CC1(C(=O)C(C)(C)O[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCCC2=C(C=CC=C2)[C:1]1([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9955,"CO[C:1]1=[CH:2]C=CC([N+](=O)[O-])=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,4168,"CC(=O)[O-:1].O=C(O)C1CCCC[N+:2]1(C(O)CCC[N+](=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,903,"CC(=O)[O-:1].CC1=CCC(C)(O)[N+:2]1(C1=C(Br)C=CC=C1)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1134,"CCC(Br)C(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8804,"OCC1C(O)C(O)C(O)[CH:1]([OH2+:2])[O:3]1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9500,"CC[O:1][CH2:2][Cl:3].CO|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4116,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C(=O)[C:1]1=[O:2].CCO.NC1=C([NH2:3])C=C(C(=O)C2=CC=CC=C2)C=C1.NC1=C([NH3+])C=CC(C(=O)C2=CC=CC=C2)=C1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4628,"O=[C:1]([O:2]C(C1=CC=CC=C1)C(Cl)C1=CC=CC=C1)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7090,"C[S+:1](C)Br.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1669,"CNC(=O)[NH:1][CH:2](C1=CC=CC=C1)[OH2+:3].COC(=O)CC(=O)C1=CC=CC=C1.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4645,"C=C[CH2:1][Mg:2][Br].CC[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,2329,"OC1(CN=N[OH:1])CCCCC1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5532,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(C2CCCCC2)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5218,"CON1C(=O)C2(CC(C(Cl)=[O+:1][H:2])C3COC2C(=O)C3)C2=C1C=CC=C2.[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5931,"C1=CC=C([CH:1]=[CH2:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6893,"C=CCC(C1(C)COC(C)(C)OC1)[O:1][B-]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1619,"CCC(C1=C([C:1](C#N)=[O:2])C=CC=C1)[O-:3].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9873,"CC[CH:1]([CH:2](C)[H:3])[Br:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
